US07598286B2
(3-hydroxyphenyl)(1-propyl-1H-indazol-3-yl)methanone
A mixture of [3-(benzyloxy)phenyl]-(1-propyl-1H-indazol-3-yl)methanol (0.067 g, 0.18 mmol.), ammonium formate (0.09 g, 1.17 mmol) and 10% palladium on carbon (0.09 g) in 10 mL ethanol was heated at reflux for 18 hours. The reaction was filtered (celite) and the cake washed with excess ethanol. The filtrate was concentrated in vacuo. The crude product was purified by HPLC [column: silica gel 150×12 mm (Biotage) at 10 mL/min with methyl-t-butyl ether/hexane, gradient elution, 1:9 to 1:1 over 15 min) to give the title compound (0.022 g) as a white solid.

reactant | [3-(benzyloxy)phenyl]-(1-propyl-1H-indazol-3-yl)methanol | 0.18 mmol, 0.067 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(O)C1=NN(C2=CC=CC=C12)CCC | C24H24N2O2
reactant | ammonium formate | 1.17 mmol, 0.09 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.09 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (3-hydroxyphenyl)(1-propyl-1H-indazol-3-yl)methanone | 0.022 g | OC=1C=C(C=CC1)C(=O)C1=NN(C2=CC=CC=C12)CCC | C17H16N2O2
